US07776875B2
Preparation of Intermediate trimethylsilylacetylene boronic acid dimethyl ester
A solution of trimethylsilylacetylene (0.51 mL) in THF (4 mL) was cooled to −78° C. under argon, and then a solution of n-BuLi in n-hexane (1.6 M, 2.25 mL, 3.6 mmol) was added via syringe. The resulting mixture was stirred at the same temperature for 15 min, then trimethylborate (0.4 mL, 3.6 mmol) was added. The cooling bath was removed, and the mixture was stirred at room temperature for 15 min to give a solution of the title compound.

reactant | trimethylsilylacetylene | 0.51 mL | C[Si](C)(C)C#C | C5H10Si
reactant | n-BuLi | [Li]CCCC
reactant | n-hexane | 3.6 mmol, 1.6 M, 2.25 mL | CCCCCC | C6H14
reactant | trimethylborate | 3.6 mmol, 0.4 mL | COB(OC)OC | C3H9BO3
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | trimethylsilylacetylene boronic acid dimethyl ester | COB(OC)C#C[Si](C)(C)C | C7H15BO2Si
